US08497376B2
b. 4-[1,5-Bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl]-phenylamine
To a mixture of trifluoromethanesulfonic acid 1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester (as prepared in the previous step, 1.22 g, 2.24 mmol), Pd(PPh3)4 (259 mg, 0.224 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (540 mg, 2.46 mmol) in 20 mL of 1,4-dioxane was added 2.0 M aqueous Na2CO3 solution (9.0 mL, 18 mmol). The resulting mixture was stirred at 80° C. for 2 h and then cooled to RT. Treated with 100 mL of EtOAc, the mixture was washed with H2O (3×20 mL), brine (20 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (1:1 hexane/DCM-DCM) gave 802 mg (73% for two steps) of the title compound as a light brown oil. Mass spectrum (ESI, m/z): Calcd. for C27H45NO3Si2, 488.3 (M+H), found 488.4.

reactant | trifluoromethanesulfonic acid 1,5-bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl ester | C(C)(C)(C)[SiH2]OC(C12C=C(CC(C=C1)(O2)C(O[SiH2]C(C)(C)C)(C)C)OS(=O)(=O)C(F)(F)F)(C)C | C22H39F3O6SSi2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 2.46 mmol, 540 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | Na2CO3 | 18 mmol, 2.0 M, 9.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.224 mmol, 259 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1,5-Bis-(tert-butyl-dimethyl-silanyloxymethyl)-8-oxa-bicyclo[3.2.1]octa-2,6-dien-3-yl]-phenylamine | C(C)(C)(C)[SiH2]OC(C12C=C(CC(C=C1)(O2)C(O[SiH2]C(C)(C)C)(C)C)C2=CC=C(C=C2)N)(C)C | C27H45NO3Si2
